US07601839B2
5.00 g (32 mmol) of 3-fluorosalicylic acid was suspended in 50 ml of glacial acetic acid. 2.2 ml of bromine were added and the mixture was stirred at ambient temperature for 48 h. The resulting suspension was diluted with 500 ml of water and the precipitate filtered off and dried by suction to afford 9.394 g of 5-bromo-3-fluoro-2-hydroxybenzoic acid as an ivory solid.

reactant | 3-fluorosalicylic acid | 32 mmol, 5.00 g | FC1=C(C(C(=O)O)=CC=C1)O | C7H5FO3
reactant | bromine | 2.2 ml | BrBr | Br2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
product | 5-bromo-3-fluoro-2-hydroxybenzoic acid | 9.394 g | BrC=1C=C(C(=C(C(=O)O)C1)O)F | C7H4BrFO3
